US08247429B2
methyl 6-fluoro-5-[(1E)-3-methoxy-3-oxoprop-1-en-1-yl]-2-methyl-2H-indazole-4-carboxylate
A suspension of methyl 5-bromo-6-fluoro-2-methyl-2H-indazole-4-carboxylate (503 mg, 1.75 mmol), palladium acetate (39.3 mg, 0.175 mmol), triphenylphosphine (91.8 mg, 0.350 mmol), potassium carbonate (266 mg, 1.93 mmol) and methyl acrylate (314 μL, 3.50 mmol) in N,N-dimethylformamide (8.8 mL) was stirred with heating at 100° C. for 1 hr. The reaction solution was diluted with ethyl acetate, washed with water and saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane=10/90→60/40) to give the title compound (452 mg, yield 88%).

reactant | methyl 5-bromo-6-fluoro-2-methyl-2H-indazole-4-carboxylate | 1.75 mmol, 503 mg | BrC1=C(C2=CN(N=C2C=C1F)C)C(=O)OC | C10H8BrFN2O2
reactant | triphenylphosphine | 0.350 mmol, 91.8 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | potassium carbonate | 1.93 mmol, 266 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl acrylate | 3.50 mmol, 314 μL | C(C=C)(=O)OC | C4H6O2
solvent | N,N-dimethylformamide | 8.8 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | palladium acetate | 0.175 mmol, 39.3 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | methyl 6-fluoro-5-[(1E)-3-methoxy-3-oxoprop-1-en-1-yl]-2-methyl-2H-indazole-4-carboxylate | 452 mg, yield 88% | FC=1C(=C(C2=CN(N=C2C1)C)C(=O)OC)\C=C\C(=O)OC | C14H13FN2O4
